US04299834
(b) 8-[4-Methoxy-2-(2-methylmercapto-ethoxy)-phenyl]-purine
An amount of 3.1 g of 4,5-bis-[4-methoxy-2-(2-methylmercapto-ethoxy)-benzoylamino]pyrimidine was refluxed in 25 ml of phosphorus oxychloride for two hours. After the phosphorus oxychloride was distilled off, the residue was taken up in water and filtered, and the product was precipitated by addition of sodium bicarbonate and recrystallized from ethanol. A further fraction was obtained by purification of the mother liquors over silicagel (eluate: methylene chloride/ethanol in a volume ratio of 19:1).

reactant | 4,5-bis-[4-methoxy-2-(2-methylmercapto-ethoxy)-benzoylamino]pyrimidine | 3.1 g | COC1=CC(=C(C(=O)NC2=NC=NC=C2NC(C2=C(C=C(C=C2)OC)OCCSC)=O)C=C1)OCCSC | C26H30N4O6S2
solvent | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-[4-Methoxy-2-(2-methylmercapto-ethoxy)-phenyl]-purine | COC1=CC(=C(C=C1)C1=NC2=NC=NC=C2N1)OCCSC | C15H16N4O2S
